US07951803B2
To a solution of 30 mg (0.077 mmol, 1.0 eq.) of ethyl 4-(2-(4-fluorophenylamino)-9-methyl-9H-purin-8-yl)picolinate (I-15) in 3 mL of ethanol was added 58 mg (1.5 mmol, 20 eq.) of sodium borohydride. The mixture was stirred at room temperature for 16 h. The volatiles were removed in vacuo and the resulting residue was purified by semi-preparative HPLC to afford 0.9 mg (3%) of (4-(2-(4-fluorophenylamino)-9-methyl-9H-purin-8-yl)pyridine-2-yl)methanol (I-16).

reactant | ethyl 4-(2-(4-fluorophenylamino)-9-methyl-9H-purin-8-yl)picolinate | 0.077 mmol, 30 mg, 1.0 eq. | FC1=CC=C(C=C1)NC1=NC=C2N=C(N(C2=N1)C)C1=CC(=NC=C1)C(=O)OCC | C20H17FN6O2
reactant | sodium borohydride | 1.5 mmol, 58 mg, 20 eq. | [BH4-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (4-(2-(4-fluorophenylamino)-9-methyl-9H-purin-8-yl)pyridine-2-yl)methanol | 0.9 mg, 3% | FC1=CC=C(C=C1)NC1=NC=C2N=C(N(C2=N1)C)C1=CC(=NC=C1)CO | C18H15FN6O
